Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: SURGERY
 
Allergies: 
Codeine / Lipitor
 
Attending: ___.
 
Chief Complaint:
Asymptomatic Left carotid stenosis
 
Major Surgical or Invasive Procedure:
Left carotid endarterectomy.

 
History of Present Illness:
Mr. ___ is a ___ year old gentleman Male with a severe 
stenosis of the left carotid by Duplex and CT with ulceration. 
He was found to have carotid bruits, and on ___ he 
underwent a carotid ultrasound that showed 60-69% stenosis of 
the right internal carotid artery and 80-99% stenosis of the 
left internal carotid artery. He was asymptomatic.
 
Past Medical History:
PMHx: PVD, h/o afib, h/o osteomyelitis, CAD s/p DESx2 to mid LAD 


PSHx: L SFA angioplasty and stenting in ___, L EIA 
angioplasty in ___
 
Social History:
___
Family History:
Noncontributory
 
Physical Exam:
VS:
Temp: 99.1  BP: 146/75   HR: 63   RR: 18   SatO2: 96% RA
General: well appearing, well nourished, in no distress.
Head: normocephalic, atraumatic, no visible or palpable masses.
Neck: Left neck incision over the anterior border of the 
sternocleidomastoid, staples removed, steri-strips in place
Lungs: Clear to auscultation and percussion
Abdomen: bowel sounds normal, no tenderness, organomegaly, 
masses, or hernia.
Extremities: no cyanosis, edema or varicosities.
Neurologic: CN ___ normal. Sensation to pain, touch normal. 
Strength normal.
 
Brief Hospital Course:
Mr. ___ is a ___ year old Male with severe Left carotid 
stenosis, 80-99%, asymtpomatic, who was admitted to the ___ 
___ on ___. The patient 
was taken to the operating room and underwent a Left carotid 
endarterectomy. Following the procedure, hemostasis was assured 
and the wound was closed in layers. A dry sterile dressing was 
applied. The patient was awakened and extubated and found to
be neurologically intact. For further details of the procedure, 
please see the surgeon's operative note. The patient tolerated 
the procedure well without complications and was brought to the 
post-anesthesia care unit in stable condition. He was placed NPO 
on sips and IV fluids and we waited 6 hours to re-assess 
swallowing. After a brief stay, the patient was transferred to 
the vascular surgery floor where he remained through the rest of 
the hospitalization. After 6 hours from surgery, swallowing was 
assessed and adequate and the patient was advanced to a regular 
diet, which he tolerated well without difficulties. Given his 
history of CAD s/p DESx2 to mid LAD, he was immediately placed 
back on his aspirin and plavix. The patient was found to have 
some episodes of bradyacardia ranging from 38-54 in PACU but 
mentioned his baseline is approximately 42 as he is a long 
distance swimmer. He was asymptomatic.

Post-operatively, he did well without any neurologic deficits or 
neck swelling. He was able to tolerate a regular diet, get out 
of bed and ambulate without assistance, void without issues, and 
pain was controlled on oral medications alone. The night after 
the surgery, the patient experienced 24 runs of VTach and was 
asymtpomatic. Magnesium was 1.8 and was repleted. From vascular 
surgery standpoint, the patient was deemed ready for discharge 
on ___, but Eletrophysiology team was consulted to weigh 
in their opinion on the VTach episodes given his cardiac 
history. Electrophysiology saw the patient and did not believe 
to be an actual episode of VT, but a junctional rhythm. There 
were no further concerns and thought that the patient could be 
discharged from their standpoint. Blood pressure goals were 
110-140. On ___, the patient reached SBP of 160 and two 
doses of IV hydrazine 10mg were administered with temporary 
recovery of his blood pressure. Upon discharge, his blood 
pressure was 146/75. At that time, staples were removed from the 
left neck incision and steri-strips were placed. The patient was 
given the appropriate discharge and follow-up instructions and 
discharged home with ___ services for blood pressure checks and 
wound check to continue his recovery.
 
Medications on Admission:
-Crestor 20'
-ASA81'
-Plavix 75'
 
Discharge Medications:
1.  Acetaminophen 325-650 mg PO Q6H:PRN pain  
2.  Aspirin 81 mg PO DAILY  
3.  Clopidogrel 75 mg PO DAILY  
4.  Rosuvastatin Calcium 20 mg PO QPM  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Left carotid artery stenosis status post Left Carotid 
Endarterectomy

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

You were admitted to ___ given 
severe stenosis of your Left carotid by Duplex and CT scan and 
underwent a Left Carotid Endarterectomy. You have now recovered 
from surgery and are ready to be discharged. Please follow the 
instructions below to continue your recovery:

WHAT TO EXPECT:
 1. Surgical Incision:
• It is normal to have some swelling and feel a firm ridge along 
the incision
• Your incision may be slightly red and raised, it may feel 
irritated from the staples
 2. You may have a sore throat and/or mild hoarseness
• Try warm tea, throat lozenges or cool/cold beverages 
 3. You may have a mild headache, especially on the side of your 
surgery
• Try ibuprofen, acetaminophen, or your discharge pain 
medication
• If headache worsens, is associated with visual changes or 
lasts longer than 2 hours- call vascular surgeon’s office
 4. It is normal to feel tired, this will last for ___ weeks 
• You should get up out of bed every day and gradually increase 
your activity each day 
• You may walk and you may go up and down stairs 
• Increase your activities as you can tolerate- do not do too 
much right away!
 5. It is normal to have a decreased appetite, your appetite 
will return with time 
• You will probably lose your taste for food and lose some 
weight 
• Eat small frequent meals
• It is important to eat nutritious food options (high fiber, 
lean meats, vegetables/fruits, low fat, low cholesterol) to 
maintain your strength and assist in wound healing
• To avoid constipation: eat a high fiber diet and use stool 
softener while taking pain medication

MEDICATION:
• Take all of your medications as prescribed in your discharge. 
Continue you Aspirin and Plavix just as you have been taking 
them before.

 ACTIVITIES:
• No driving until post-op visit and you are no longer taking 
pain medications
• No excessive head turning, lifting, pushing or pulling 
(greater than 5 lbs) until your post op visit
• You may shower (no direct spray on incision, let the soapy 
water run over incision, rinse and pat dry)
• Your incision may be left uncovered, unless you have small 
amounts of drainage from the wound, then place a dry dressing 
over the area

CALL THE OFFICE FOR: ___
• Changes in vision (loss of vision, blurring, double vision, 
half vision)
• Slurring of speech or difficulty finding correct words to use
• Severe headache or worsening headache not controlled by pain 
medication
• A sudden change in the ability to move or use your arm or leg 
or the ability to feel your arm or leg
• Trouble swallowing, breathing, or talking
• Temperature greater than 101.5F for 24 hours
• Bleeding, new or increased drainage from incision or white, 
yellow or green drainage from incisions
 
Followup Instructions:
___